US07163937B2
Preparation A3, Step 2: A solution of (1R,2S,5R)-tert-butyl 2-amino-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate (2.5 g) was dissolved in DMF (34 mL) and cooled to 0° C. prior to the addition of N-Cbz methionine (5.3 g), 4-methyl morpholine (3.7 g), and BOP (8.3 g). The reaction was stirred for 12 h at RT and then partitioned between EtOAc and 1N HCl solution. The organic phases were combined, washed with saturated NaHCO3 and brine, dried (MgSO4), filtered, and concentrated in vacuo. The residue was purified by flash chromatography to afford (1R,2S,5R)-tert-butyl 2-((S)-2-(benzyloxycarbonylamino)-4-(methylthio)butanamido)-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate (5.1 g). MS found: (M+H)+=506.2.

reactant | (1R,2S,5R)-tert-butyl 2-amino-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate | 2.5 g | N[C@@H]1[C@@H]2C(N([C@H](CC1)C2)C(=O)OC(C)(C)C)=O | C12H20N2O3
reactant | N-Cbz methionine | 5.3 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CCSC)C(=O)O | C13H17NO4S
reactant | 4-methyl morpholine | 3.7 g | CN1CCOCC1 | C5H11NO
reactant | BOP | 8.3 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 34 mL | CN(C)C=O | C3H7NO
product | (1R,2S,5R)-tert-butyl 2-((S)-2-(benzyloxycarbonylamino)-4-(methylthio)butanamido)-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate | 5.1 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N[C@@H]1[C@@H]2C(N([C@H](CC1)C2)C(=O)OC(C)(C)C)=O)CCSC | C25H35N3O6S
